US05852023
Preparation of the precursor 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-(1-chloroethyl)pyrimidine
32.3 g (0.15 mol) of 4,5-dichloro-6-(1-chloroethyl)pyrimidine(EP 543 402) were stirred in 200 ml of toluene with 23.3 g (0.15 mol) of cis-4-tert-butylcyclohexylamine and 20.2 g (0.20 mol) of triethylamine at from 80° to 90° C. for 6 hours. The mixture was extracted by stirring with water and the organic phase was dried and concentrated. The residue was purified by chromatography on silica gel, to give 36.3 g (73.2% of theory) of a colorless oil.

reactant | 4,5-dichloro-6-(1-chloroethyl)pyrimidine | 0.15 mol, 32.3 g | ClC1=NC=NC(=C1Cl)C(C)Cl | C6H5Cl3N2
reactant | cis-4-tert-butylcyclohexylamine | 0.15 mol, 23.3 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)N | C10H21N
reactant | triethylamine | 0.20 mol, 20.2 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-(1-chloroethyl)pyrimidine | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1Cl)C(C)Cl | C16H25Cl2N3
